US07196082B2
100 g of fluoro-acetophenone in 400 mL of ethylene glycol was stirred at room temperature with hydrazine (0.624 mol, 20 g) for 4 h after which the reaction mixture was heated to 150 C for 48 h. TLC analysis indicated complete reaction. Partitioned the reaction mixture into dichloromethane and brine. Dried organic phase over sodium sulphate and evaporated to a solid. Re-crystallized from hexane/dicholomethane gave indazole.

reactant | fluoro-acetophenone | 100 g | FCC(=O)C1=CC=CC=C1 | C8H7FO
reactant | hydrazine | 0.624 mol, 20 g | NN | H4N2
solvent | ethylene glycol | 400 mL | C(CO)O | C2H6O2
product | indazole | N1N=CC2=CC=CC=C12 | C7H6N2
